US06860928B2
A mixture of 1,5-bis(4-nitrophenoxy)pentane (32.7 grams, 94.4 mmol; prepared as described in Part A of this Example) and Pd/C 10% (1.00 gram, obtained from Aldrich Chemical Co.) was stirred for 20 hours in tetrahydrofuran (400 milliliters) under 200 pounds per square inch of hydrogen gas. The mixture was then filtered over CELITE, and the solvent was removed by evaporation under reduced pressure. The resulting crude solid was recrystallized from ethanol to afford pure 1,5-bis(4-aminophenoxy)pentane (24.4 grams, 85.1 mmol, 90 percent yield) as small colorless crystals: mp 78-79° C.; IR (KBr) 3433, 3353, 3217, 2949, 2868, 1856, 1632, 1511, 1473, 1396, 1228, 1031, 1002, 825, 517 cm−1; 1H NMR (300 MHz, CDCl3) δ6.76 (d, 4H, 3J=8.8 Hz), 6.64 (d, 4H, 3J=8.8 Hz), 3.92 (td, 4H, 3J=6.4 Hz, 4J=1.4 Hz), 3.40 (s, 4H), 1.82 (q, 4H, 3J=6.8 Hz), 1.62 (q, 2H, 3J=6.8 Hz): 13C NMR (75 MHz, CDCl3) δ151.31, 140.06, 116.51, 115.78, 68.58, 29.32, 22.83; MS (FAB, 3-nitrobenzyl alcohol) m/e 286.7; Anal. Calcd for C17H22N2O2: C, 71.30; H. 7.74; N, 9.78. Found: C, 71.11; H, 8.22; N, 9.85.

reactant | 1,5-bis(4-nitrophenoxy)pentane | [N+](=O)([O-])C1=CC=C(OCCCCCOC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C17H18N2O6
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 400 milliliters | O1CCCC1 | C4H8O
catalyst | Pd/C | 1.00 gram | [Pd] | Pd
product | 1,5-bis(4-aminophenoxy)pentane | 85.1 mmol, 24.4 grams, 90 percent yield | NC1=CC=C(OCCCCCOC2=CC=C(C=C2)N)C=C1 | C17H22N2O2
